US08242104B2
4-[2-(2-isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester (0.921 g, 1.77 mmol) was stirred in DMF (7 mL). EDCI (0.407 g, 2.12 mmol), HOBt (0.286 g, 2.12 mmol) and DIPEA (1.55 mL, 8.85 mmol) were added and the reaction stirred at RT for 5 min. Ammonium chloride (0.284 g, 5.31 mmol) was added and the reaction mixture stirred at RT for 18 h. Ethyl acetate and water were added, the organic layer separated and washed with water, dried (MgSO4), filtered and concentrated in vacuo to give 5-Carbamoyl-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.917 g, 1.76 mmol). LCMS RT=3.13 min, [M+H]+=520

reactant | 4-[2-(2-isopropyl-2H[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester | 1.77 mmol, 0.921 g | C(C)(C)(C)OC(=O)N1CC(=C(CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C(=O)O | C27H32N6O5
reactant | EDCI | 2.12 mmol, 0.407 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.12 mmol, 0.286 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 8.85 mmol, 1.55 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ammonium chloride | 5.31 mmol, 0.284 g | [Cl-].[NH4+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Carbamoyl-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.76 mmol, 0.917 g | C(C)(C)(C)OC(=O)N1CCC(=C(C1)C(N)=O)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C27H33N7O4
